### PR TITLE
Make the check_traceable tactic work on traceable graphs too

### LINKED ISSUE #63: A bogus satisfying assignment is caught only by the kernel, with an unusable message
A solver that answers SAT with an assignment that is not a Hamiltonian path is caught, but the resulting message is not usable.

Soundness is fine and needs no change: `hamiltonianPathOfData` (`LeanHoG/Invariant/HamiltonianPath/Certificate.lean:12`) builds the certificate entirely out of `Eq.refl` at `decide` — one adjacency proof per step, then `Walk.isPath`, then `Path.isHamiltonian` — so `addAndCompile` cannot accept a bogus path. This was the question raised in #58 and the answer is that substitution-and-check happens in the kernel.

The problem is what the user sees. With a stub solver that always prints `s SATISFIABLE` with an all-false assignment and exits 10, `#check_traceable Wheel` gives:

```
found Hamiltonian path, registered as Wheel.HamiltonianPathI
error: (kernel) application type mismatch
  of_decide_eq_true (Eq.refl true)
argument has type
  true = true
but function has type
  decide (LeanHoG.Graph.adjacent ⟨0, ⋯⟩ ⟨0, ⋯⟩) = true → LeanHoG.Graph.adjacent ⟨0, ⋯⟩ ⟨0, ⋯⟩
```

Two things wrong with that. The success message is logged next to the failure, so the command simultaneously claims to have registered a certificate and fails to. And the error is a raw kernel type mismatch about `of_decide_eq_true`, which says nothing about the solver having misbehaved.

The path data is in hand before the certificate is built, and `Path.isHamiltonian` is decidable, so this could be checked in Lean first and reported as something like "the SAT solver returned an assignment that does not describe a Hamiltonian path in `G`; the solver named by `leanHoG.solverCmd` is not answering correctly". The kernel check stays as the thing that actually guarantees soundness.

*— Claude (Claude Code), posting from @lucyhorowitz's account*

### LINKED ISSUE #64: check_traceable cannot create its certificate inside a named theorem
`check_traceable` and `check_traceablea` work inside `example`, and inside a named `theorem` once the certificate or axiom is already in the environment. What fails is a named `theorem` that has to create it:

```lean
load_graph P "build/graphs/660.json"

theorem pt : P.traceable := by check_traceablea P
-- error: cannot add declaration P.HamiltonianPathI to environment
--        as it is restricted to the prefix pt
```

The same happens in the UNSAT direction, where the declaration is the axiom rather than the certificate:

```
error: cannot add declaration U.hamiltonianPathCNFUnsat to environment
       as it is restricted to the prefix unsatNamed
```

Both tactics add a global declaration during elaboration, and Lean restricts declarations added while elaborating a named declaration to that declaration's own name prefix. `example` is not subject to it, which is why nothing in `Examples.lean` trips over this.

The workaround is to run the command first, since `#check_traceable G` is elaborated at the top level and its certificate persists:

```lean
#check_traceable W                                      -- registers W.HamiltonianPathI
theorem wt : W.traceable := by check_traceablea W       -- works, reuses it
```

Worth knowing that a preceding `example` is *not* a substitute for the command. A declaration added while elaborating an `example` does not persist — after

```lean
example : P.traceable := by check_traceablea P
#show_hamiltonian_path P
```

the second line reports `Hamiltonian path for graph not found.`, so a later named theorem on `P` still tries to create the certificate and still fails.

Found while testing #62, and unrelated to it: #62 is what makes the "reuse after the command" case above work at all — before it, that case died with `constant has already been declared`. The restriction itself predates both.

*— Claude (Claude Code), posting from @lucyhorowitz's account*

### PR DESCRIPTION
**Pull request by lucyhorowitz**
The SAT direction of the `check_traceable` tactic never worked. Two independent faults, both surfacing only in the kernel, so neither was visible from the tactic's own error reporting. Fixing them exposed a third, which they had been hiding.

**The hypothesis was never applied to anything.** `mkAppM ``HamiltonianPath.path_of_cert #[]` with an empty argument array returns the bare constant, whose implicit `G` and `HamiltonianPath G` instance are still abstracted. On `main`, `example : Petersen.traceable := by check_traceable Petersen; assumption` gives:

```
error: (kernel) declaration type mismatch, 'LeanHoG._example' has type
  ∀ {G : Graph} [hp : HamiltonianPath G], G.traceable
but it is expected to have type
  Graph.traceable P
```

It is now applied to the certificate by name with `mkAppOptM`.

**A second run on the same graph collided.** The certificate's name is a function of the graph's, so `#check_traceable G` followed by the tactic on `G` — or the tactic twice — tried to re-declare it. On `main`:

```
error: (kernel) constant has already been declared 'W.HamiltonianPathI'
```

The certificate already in the environment is a certificate for the same graph, so it is reused rather than re-added.

**Neither direction could create its declaration inside a named theorem.** Both tactics add a declaration named after the graph: the `HamiltonianPath` instance in the SAT case, the unsat axiom in the UNSAT case. Lean elaborates declarations in parallel and lets each add only names beneath its own prefix, so a named theorem that has to create one gets:

```
error: cannot add declaration P.HamiltonianPathI to environment
       as it is restricted to the prefix pt
```

Anonymous `example`s are exempt, which is why nothing in `Examples.lean` trips over this, and why it only became visible once the two faults above were out of the way. `searchForHamiltonianPathAux` now takes `register`, separating "make a reusable global declaration", which is what the command is for, from "prove this goal", which is all a tactic needs:

- SAT with `register := false`: `hamiltonianPathOfData` already returns a self-contained term, so the certificate goes straight into the proof term and nothing is added to the environment at all.
- UNSAT with `register := false`: an axiom has to be a declaration, there being no other way to assert one, so it is named beneath the declaration being elaborated, where the restriction allows it.
- Both now reuse an equivalent declaration already in the environment. The SAT branch already did; the UNSAT branch did not, so the command followed by the tactic on the same graph died with `constant has already been declared`. That is the workaround suggested in #64, which therefore only ever covered the SAT half.

`find_example` keeps `register := true`: its SAT case closes the goal by instance synthesis rather than with the returned proof term, so there the certificate does have to be a registered instance. Closes #64. Closes #63 too: its fix, #69, merged into this branch rather than `main`, so that PR's own keyword never fired and only this merge can close it.

One consequence worth stating: a tactic no longer leaves a certificate behind, so `#show_hamiltonian_path G` after a tactic-only use of `G` reports nothing. That was already true of a use inside an `example`, whose declarations do not persist, so this makes the two consistent rather than taking anything away from the command.

Also in here: the command reported `found Hamiltonian path W.traceable`, naming the *type* of the fact rather than the declaration it registered, so it now names `W.HamiltonianPathI`; and the docstrings now say that both tactics decide traceability either way, with an example of each direction, since that was the part the previous docs left out.

Testing, with real cadical:

- the command then the tactic on the same graph now works, where `main` dies with "constant has already been declared"
- the tactic on a graph no command has touched proves `P.traceable`, where `main` dies with the declaration type mismatch above, and works a second time on the same graph
- a named `theorem` now works in both directions with nothing registered beforehand, and twice on the same graph; `main` and the first two fixes alone both die with the prefix restriction
- the command then a named `theorem` works in both directions; before this the UNSAT half of that died with "constant has already been declared"
- `#print axioms` on a SAT-direction theorem lists only `propext`, `Classical.choice`, `Quot.sound` — the proof is the path itself, no `hamiltonianPathCNFUnsat` involved
- the UNSAT direction still adds its axiom, now named beneath the declaration that needed it
- the anonymous `example`s in `Examples.lean` are unaffected, and `lake build Examples` completes

*— Claude (Claude Code), posting from @lucyhorowitz's account*

### CODE REVIEW

File: LeanHoG/Invariant/HamiltonianPath/Tactic.lean [hunk 1]
```diff
@@ -36,27 +53,36 @@ unsafe def searchForHamiltonianPathAux (graphName : Name) (graph : Q(Graph)) :
...
-        type := q(HamiltonianPath $graph)
-        value := hpQ
-        hints := .regular 0
-        safety := .safe
-      }
-      Lean.Meta.addInstance hamiltonianPathName .global 42
-    -- Applied to the certificate by name, not left to instance synthesis: `mkAppM`
+    let hamiltonianPathName := certificateName graphName "HamiltonianPathI"
+    let cert : Expr ←
+      if (← getEnv).contains hamiltonianPathName then
```
Comment (dMaggot) [inline LeanHoG/Invariant/HamiltonianPath/Tactic.lean]: I think it makes sense here to also check the type matches the type we expect (in case something else poisons the environment with a definition with the same name).

File: LeanHoG/Invariant/HamiltonianPath/Tactic.lean [hunk 2]
```diff
@@ -70,25 +96,38 @@ unsafe def searchForHamiltonianPathAux (graphName : Name) (graph : Q(Graph)) :
...
+    let globalName : Name := .str graphName "hamiltonianPathCNFUnsat"
     let type : Q(Prop) := q(((hamiltonianPathCNF $graph).val.toICnf.toStd).Unsat)
     let noExistsType := q(¬ ∃ (u v : Graph.vertex $graph) (p : Path $graph u v), p.isHamiltonian)
+    -- Where the axiom goes. One for this graph already in the environment says
+    -- exactly what is needed, so reuse it; that is the case a second run on the
+    -- same graph used to die on. Otherwise declare it, globally for the command and
+    -- beneath the enclosing declaration for a tactic, which may not add a name
+    -- outside its own prefix.
+    let declName : Name ←
+      if (← getEnv).contains globalName ∨ register then
```
Comment (dMaggot) [inline LeanHoG/Invariant/HamiltonianPath/Tactic.lean]: Same check as above.

**Review by dMaggot — CHANGES_REQUESTED** [review]
Looks good except for the environment checks, make them more robust.

File: LeanHoG/Invariant/HamiltonianPath/Tactic.lean (hunk 1 above)
Comment (lucyhorowitz) [reply LeanHoG/Invariant/HamiltonianPath/Tactic.lean]: Agreed, and done in e630c41. The lookup now goes through a helper that insists on the type as well as the name:

```lean
private def hasReusableDecl (declName : Name) (expectedType : Expr) : Meta.MetaM Bool := do
  let some info := (← getEnv).find? declName | return false
  if ← Meta.withNewMCtxDepth (Meta.isDefEq info.type (← instantiateMVars expectedType)) then
    return true
  else
    throwError "the name {declName} is already taken by a declaration of type\
      {indentExpr info.type}\nbut this graph needs one of type{indentExpr expectedType}"
```

Absent → declare it; present with a defeq type → reuse it; present with anything else → error here, since the name is taken either way and there is nothing better to do than say so. `withNewMCtxDepth` keeps a failed comparison from leaving `expectedType`'s metavariables assigned behind it.

At this site the expected type is bound once as `certType` and used both for the check and for the `defnDecl`'s `type` field, so the two cannot drift apart.

Checked by hand: with `def Cyc7b.HamiltonianPathI : Nat := 0` pre-declared, `check_traceable Cyc7b` now reports `the name Cyc7b.HamiltonianPathI is already taken by a declaration of type ℕ / but this graph needs one of type HamiltonianPath Cyc7b`, where before it reached the kernel and complained about an `of_decide_eq_true` term the user never wrote.

*— Claude (Claude Code), posting from @lucyhorowitz's account*

File: LeanHoG/Invariant/HamiltonianPath/Tactic.lean (hunk 2 above)
Comment (lucyhorowitz) [reply LeanHoG/Invariant/HamiltonianPath/Tactic.lean]: Same helper here, in e630c41 — the check is shared rather than written twice, since it is the same argument both times.

This site picks the name, so `if (← hasReusableDecl globalName type) ∨ register then`. There is a third guard just below, the `unless` before `addDecl`, which had the same weakness and now goes through the helper too, against the axiom's own `type`.

Checked with `def Cyc34.hamiltonianPathCNFUnsat : Nat := 0` pre-declared on a disconnected graph: the error names the expected `...toICnf.toStd.Unsat` type instead of the axiom being silently skipped and the wrong constant applied.

One thing worth naming: `∨` here evaluates the check before it looks at `register`, so a poisoned name is now reported even on the `#check_traceable` path that would have used `globalName` regardless. That path previously skipped the `addDecl` and applied the foreign constant, so it failed anyway, just later and less legibly — but tell me if you would rather the check were skipped when `register` already decides the name.

*— Claude (Claude Code), posting from @lucyhorowitz's account*
